US07816558B2
58 mg of tetrakis(triphenylphosphine)palladium and 208 mg of potassium carbonate were added to a toluene (10 ml) solution of 386 mg of methyl 2-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)isonicotinate and 534 mg of 1-(triisopropylsilyl)pyrrole-3-boronic acid, then this was irradiated with microwaves and heated at 130° C. in a nitrogen atmosphere for 1 hour. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5 to 70:30) to obtain 24 mg of methyl 2-{3-cyano-4-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]phenyl}isonicotinate.

reactant | potassium carbonate | 208 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)isonicotinate | 386 mg | C(#N)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C=1C=C(C(=O)OC)C=CN1 | C15H9F3N2O5S
reactant | 1-(triisopropylsilyl)pyrrole-3-boronic acid | 534 mg | C(C)(C)[Si](N1C=C(C=C1)B(O)O)(C(C)C)C(C)C | C13H26BNO2Si
catalyst | tetrakis(triphenylphosphine)palladium | 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | methyl 2-{3-cyano-4-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]phenyl}isonicotinate | 24 mg | C(#N)C=1C=C(C=CC1C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C)C=1C=C(C(=O)OC)C=CN1 | C27H33N3O2Si
